US07402598B2
(iv) 3-(4-{[6-(Benzylamino)hexyl]oxy}butyl)benzenesulfonamide
3-[4-(6-Bromo-hexyloxy)-butyl]benzenesulfonamide (1.0 g) in toluene (4 ml) was added dropwise to benzylamine (0.65 g) and the resulting mixture heated at 80° C. for 6 h. The mixture was then cooled and 20% aqueous sodium hydroxide solution (50 ml) was added. The resulting mixture was extracted with ethyl acetate and the combined organic layers evaporated to dryness in vacuo. The residual oil was then purified by chromatography (DCM-IMS-NH3(aq) 100:10:1) to give the title compound (0.54 g) LC RT=3.89 min.

reactant | 3-[4-(6-Bromo-hexyloxy)-butyl]benzenesulfonamide | 1.0 g | BrCCCCCCOCCCCC=1C=C(C=CC1)S(=O)(=O)N | C16H26BrNO3S
reactant | benzylamine | 0.65 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-{[6-(Benzylamino)hexyl]oxy}butyl)benzenesulfonamide | 0.54 g | C(C1=CC=CC=C1)NCCCCCCOCCCCC=1C=C(C=CC1)S(=O)(=O)N | C23H34N2O3S
